US05017724
20.0 Grams of 8-hydroxy-5-methyl-1,2,3,4,4a,9a-hexahydro-9-fluorenone, 10.4 g of potassium hydroxide and 200 ml of methanol were refluxed under heating until a homogeneous solution was produced. The solution was left to stand and thereto was added 16.0 ml of allyl bromide. The mixture was again refluxed under heating for 3 hours. The reaction mixture was poured into ice water and the separated crystal was collected by filtration and washed with water and then with n-hexane. The thus obtained crystal was once dissolved in chloroform and dried with magnesium sulfate and thereafter the solvent was distilled off. The crystal was recrystallized from ethanol to obtain 14.6 g of 8-allyloxy-5-methyl-1,2,3,4,4a,9a-hexahydro-9-fluorenone.

reactant | 8-hydroxy-5-methyl-1,2,3,4,4a,9a-hexahydro-9-fluorenone | OC=1C=CC(=C2C3CCCCC3C(C12)=O)C | C14H16O2
reactant | potassium hydroxide | 10.4 g | [OH-].[K+]
reactant | allyl bromide | 16.0 ml | C(C=C)Br | C3H5Br
solvent | methanol | 200 ml | CO | CH4O
product | 8-allyloxy-5-methyl-1,2,3,4,4a,9a-hexahydro-9-fluorenone | 14.6 g | C(C=C)OC=1C=CC(=C2C3CCCCC3C(C12)=O)C | C17H20O2
